US07884104B2
2-Bromopyrazino[2,3-b]pyrazine
To a stirred solution of 50 mg (0.27 mmol) of 5-bromopyrazine-2,3-diamine in 2 mL of a 10:1 solution of methanol/acetic acid was added 0.046 mL (0.40 mmol) of glyoxal solution (40 wt. % in water) and the resulting solution was stirred at 50° C. for 4 h. The reaction mixture was cooled to ambient temperature, diluted with 10 mL of ethyl acetate and washed with saturated aqueous sodium bicarbonate solution, and saturated aqueous brine (5 mL each). The organic phase was then dried over anhydrous sodium sulfate, filtered, and evaporated in vacuo to yield the title compound as a tan crystalline solid which was used without further purification. LC/MS 211.1, 213.1 (M+1, M+3).

reactant | 5-bromopyrazine-2,3-diamine | 0.27 mmol, 50 mg | BrC=1N=C(C(=NC1)N)N | C4H5BrN4
reactant | methanol acetic acid | CO.C(C)(=O)O
reactant | glyoxal | 0.40 mmol, 0.046 mL | C(=O)C=O | C2H2O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 2-Bromopyrazino[2,3-b]pyrazine | BrC=1C=NC=2C(=NC=CN2)N1 | C6H3BrN4
